US06090836
EXAMPLE 37 Step A: Preparation of methyl 4-(4-hydroxybutyn-1-yl)phenylacetate
To a solution of methyl 4-bromophenylacetate (229 mg, 1.0 mmole) and 3-butyn-1-ol (151 μL, 2.0 mmole) in triethylamine (4.0 mL) was added cuprous bromide (18 mg, 0.12 mmole) and tetra(triphenylphosphine)palladium (46 mg, 0.04 mmole), and the mixture refluxed under a nitrogen atmosphere for 1 hr 20 min. The mixture was evaporated in vacuo and the residue partitioned with water and ether. The organic phase was washed with brine, dried over magnesium sulfate and concentrated in vacuo to an oil. Flash chromatography on silica gel in 7:3 hexane:ethyl acetate afforded the title compound (175 mg) as an oil NMR (CDCl3): δ 1.69 (s, 1H); 2.71 (t, 2H); 3.63 (s, 2H); 3.71 (s, 3H); 3.83 (t, 2H); 7.22 (d, 2H); 7.38 (d, 2H).

reactant | methyl 4-bromophenylacetate | 1.0 mmole, 229 mg | BrC1=CC=C(C=C1)CC(=O)OC | C9H9BrO2
reactant | 3-butyn-1-ol | 2.0 mmole, 151 μL | C(CC#C)O | C4H6O
solvent | triethylamine | 4.0 mL | C(C)N(CC)CC | C6H15N
catalyst | tetra(triphenylphosphine)palladium | 0.04 mmole, 46 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | methyl 4-(4-hydroxybutyn-1-yl)phenylacetate | 175 mg | OCCC#CC1=CC=C(C=C1)CC(=O)OC | C13H14O3
